US05091432
Synthesis of 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid, methyl ester (AIT-0085).
0.500 g (1.519 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.328 g (1.519 mmol) of L-phenylalanine methyl ester hydrochloride were placed in a 25 ml round bottom flask equipped with a magnetic stirring bar. 3 ml of dimethylsulfoxide was added and the solution was stirred to dissolve as much solid as possible at room temperature. Then 159 mg (1.571 mmol) of triethylamine was added and the solution was stirred at room temperature (20° C.) for one hour. 10 ml of acetonitrile was added to the stirring solution. The solution was triturated with ether until a white precipitate had formed. The solution was filtered to remove the triethylamine hydrochloride. The mother liquor was again treated with ether to produce a precipitate. The mixture was filtered and the white solid was washed with ethyl ether and dried. This yielded 0.465 g of a white solid. The white solid material was added to 22 ml ethanol/H2O 9:1 and was heated to dissolve the compound. After allowing to cool to room temperature, ether was added until just before the cloud point. The solution was placed in a refrigerator overnight. Upon filtration and washing with ether, 0.235 g of 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid, methyl ester (AIT-0085) as a white crystalline material was obtained. m.p. 186°-191° C.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 1.519 mmol, 0.500 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | L-phenylalanine methyl ester hydrochloride | 1.519 mmol, 0.328 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 1.571 mmol, 159 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]-3-phenylpropanoic acid, methyl ester | O=C1C=2N=CN(C2N=CN1)CCC(=O)NC(C(=O)OC)CC1=CC=CC=C1 | C18H19N5O4
